US04507498
A solution of 2.71 g of 4-[4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]butanoic acid ethyl ester in 20 ml of 1.0N sodium hydroxide and 90 ml of methanol was stirred at reflux for 6.5 hours. The methanol was removed in vacuo and the residue was acidified. The product was extracted with ether and the dried (magnesium sulfate) extract was concentrated in vacuo to an oil. Chromatography on 150 g of silica gel and elution with a solvent mixture of 5% acetic acid: 70% toluene: 25% ethyl acetate gave 2.32 g (90% yield) of 4-[4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]butanoic acid as an oil.

reactant | 4-[4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.71 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCCOCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C36H52O9
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1.0N, 20 ml | [OH-].[Na+]
solvent | methanol | 90 ml | CO | CH4O
product | 4-[4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]butanoic acid | 2.32 g, 90% yield | C(C)(=O)C1=C(C(=C(OCCCC(=O)O)C=C1)CCC)OCCCCOCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C34H48O9
